Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
tetracycline
 
Attending: ___.
 
Chief Complaint:
Chest pressure
 
Major Surgical or Invasive Procedure:
Coronary Angiography-including catheter placement
Percutaneous Coronary Intervention s/p PTCA/stent of ___ 
using DES, and POBA for in-stent restenosis of OM1

 
History of Present Illness:
___ w/ PMH of CAD s/p PCI to OM1 with overlapping DS and also 
DES to ramus intermedius vessel ___, ___ 2 in mid RCA and 
PDA in ___, DES to ___ ramus branch ___, ___ 
esophagus, and HLD who presents with anterior chest discomfort 
after recent discharge ___ for chest pain. Pt had "mildly 
abnormal" stress test on ___ and was being scheduled for 
outpatient catheterization next week. He noticed new onset chest 
discomfort while cooking dinner and took ASA81 and nitroglycerin 
SL without improvement. He did feel slightly lightheaded. No 
sob, nausea, vomiting. No fevers or cough.

In the ED initial vitals were:  97.9 77 127/80 16 97% RA 
 EKG:  NSR at 69 NA/NI inferior Qs c/w prior
 Labs/studies notable for:  negative troponin, negative CXR
 Patient was given:  full dose aspirin and heparin drip
 Vitals on transfer:  98.7 66 121/84 17 100% RA 
 On the floor, pt reports above story. Notes imdur 30mg was 
added to his medication regimen after stress test. No current 
chest pain/discomfort. 

REVIEW OF SYSTEMS:  
 Cardiac review of systems is notable for absence dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope, or presyncope.  

On further review of systems, denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. Denies exertional 
buttock or calf pain. Denies recent fevers, chills or rigors. 
All of the other review of systems were negative.  

 
Past Medical History:
 PAST MEDICAL HISTORY:  
 1. CARDIAC RISK FACTORS: -hypertension, +dyslipidemia, 
-diabetes  
 2. CARDIAC HISTORY:  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: PCI to OM1 with 
overlapping DS and also DES to ramus intermedius vessel ___  
 - PACING/ICD: None  
 Hx for CAD S/P IMI- prior IMI undergoing invasive evaluation 
because of possible post-MI Sx's ___  
 Cath ___ showed 2 V CAD : occluded first OM Rx with 
overlapping Cypher stents. Ramus had a high-grade lesion Rx with 
Cypher. Rt dominant (no disease RCA)  
 3. OTHER PAST MEDICAL HISTORY:  
 Allergic rhinitis  
 Chronic fatigue syndrome  
 Glaucoma  
 OSA  
 Rotator cuff tear  
 ___ esophagus  
 Osteoporosis  
 Adrenal insufficiency  
 BPH  
 Insomnia  
 GERD  
 
Social History:
___
Family History:
father had a heart attack at the age of ___ and ultimately  had 
bypass surgery in his ___. He has a brother who is ___ years  
older than him who had a heart attack at age ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
=======================
VS: 66.7kg 97.5 147/79 68 16 98%RA 
GENERAL: WDWN M in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. 
NECK: Supple without JVP elevation at 90 degrees
CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: CTAB No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric 

DISCHARGE PHYSICAL EXAM:
=======================
VS: T98  ___  ___ 16 98%RA 
GENERAL: WDWN M in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. 
NECK: Supple without JVP elevation at 90 degrees
CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: CTAB No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric 
WEIGHT: 68.1 kg
 

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 10:05PM   GLUCOSE-97 UREA N-19 CREAT-1.0 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-99 TOTAL CO2-32 ANION GAP-12
___ 10:05PM   cTropnT-<0.01
___ 10:05PM   WBC-4.2 RBC-4.65 HGB-11.9* HCT-38.3* MCV-82 
MCH-25.6* MCHC-31.1* RDW-14.2 RDWSD-41.7
___ 10:05PM   NEUTS-49.3 ___ MONOS-10.8 EOS-2.9 
BASOS-0.7 IM ___ AbsNeut-2.05 AbsLymp-1.50 AbsMono-0.45 
AbsEos-0.12 AbsBaso-0.03
___ 10:05PM   PLT COUNT-166
___ 10:05PM   ___ PTT-28.9 ___
___ 10:05PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:05PM URINE  COLOR-Straw APPEAR-Clear SP ___

INTERVAL LABS: 
==============
___ 06:40AM BLOOD WBC-5.2 RBC-4.69 Hgb-12.3* Hct-38.9* 
MCV-83 MCH-26.2 MCHC-31.6* RDW-14.4 RDWSD-42.5 Plt ___
___ 06:40AM BLOOD Glucose-99 UreaN-16 Creat-0.9 Na-140 
K-4.1 Cl-102 HCO3-28 AnGap-14
___ 09:53PM BLOOD cTropnT-<0.01
___ 06:55PM BLOOD cTropnT-<0.01
___ 04:58PM BLOOD cTropnT-<0.01
___ 06:40AM BLOOD Calcium-8.5 Phos-4.3 Mg-2.0

IMAGING: 
========
CXR ___
Mild left base atelectasis without focal consolidation.  No 
pleural effusion or pneumothorax is seen. The cardiac and 
mediastinal silhouettes are unremarkable and stable.  Re- 
demonstrated rounded calcific density projecting over the heart 
on the lateral view it is stable, and could represent a coronary 
stent.
CORONARY ANGIOGRAM (___)
Coronary Anatomy
Dominance: Right
# Left Main Coronary Artery
The LMCA is normal.
# Left Anterior Descending
The LAD has mild luminal irregularities
# Circumflex
The Circumflex has 60% ___ stenosis.
The ___ Marginal is a large branching vessel. There are 
previously deployed stents in mid segment extending into large 
upper pole branch. There is a tubular 70% in-stent restenosis in 
distal part of stents.
Small jailed lower pole branch has long 70% stenosis
# Ramus
The Ramus is a moderate sized vessel. Previously deployed stent 
in ___ segment has focal 30%
restenosis.
# Right Coronary Artery
The RCA has 40% ___ stenosis. Previously deployed stents in mid 
segment and PDA are widely patent.

Impressions:
1 vessel CAD.
Successful PTCA/stent of ___ using DES, and POBA for 
in-stent restenosis of OM1.
 
Brief Hospital Course:
___ w/ PMH of CAD s/p PCI to OM1 with overlapping DS and also 
DES to ramus intermedius vessel ___, ___ 2 in mid RCA and 
PDA in ___, DES to ___ ramus branch ___, ___ 
esophagus, and HLD who presents with anterior chest discomfort 
after recent discharge ___ for chest pain. Pt had "mildly 
abnormal" stress test on ___ and was being scheduled for 
outpatient catheterization next week. He noticed new onset chest 
discomfort while cooking dinner and took ASA81 and nitroglycerin 
SL without improvement. He did feel slightly lightheaded. No 
sob, nausea, vomiting. No fevers or cough.

# CAD
# Unstable Angina
Patient had stable EKG findings and negative troponins. He was 
started on heparin ggt and then had coronary angiography with 
PTCA/stent of ___ using DES, and POBA for in-stent 
restenosis of OM1. After cath, patient continued to have some 
discomfort ___. Post-cath trp was negative. Patient was 
started on ticagrelor and Plavix was stopped since patinet had 
stent thrombosis in the setting of plavix. Lisinopril was 
started on this hospitalization and isosorbide mononitrate was 
stopped. Atorvastatin was increased to 80 mg daily. Patient was 
evaluated by ___ who suggested continuation of cardiac rehab as 
outpatient. 

STOPPED MEDICATIONS: Clopidogrel (Plavix)
NEW MEDICATIONS: Ticagrelor, Lisinopril
CHANGED MEDICATIONS: Atorvastatin (40 mg to 80 mg)
HELD MEDICATION: Isosorbide mononitrate. Consider resuming if 
patient is tolerating ACE inhibitor with stable blood pressure

TRANSITIONAL ISSUES: 
[] Patient started on ACEi, lisinopril 2.5, during this 
hospitalization. Titrate up as tolerated. 
[] Imdur was held given new ACEi and concern for hypotension. 
Consider resuming if needed and if patient's blood pressure will 
tolerate with ACEi on board.
[] Patient continued to have ___ chest discomfort throughout 
his admission. This was thought to be non-cardiac as he also had 
belching and was on a different medication regimen for his GERD 
than his home meds. Please follow up with the patient regarding 
this discomfort. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. DULoxetine 30 mg PO DAILY 
5. Gabapentin 400 mg PO QHS 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 40 mg PO BID 
8. Sucralfate 1 gm PO TID 
9. TraZODone 100 mg PO QHS 
10. Vitamin D ___ UNIT PO DAILY 
11. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit oral DAILY 
12. Metoprolol Succinate XL 12.5 mg PO DAILY 
13. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
14. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every 8 hours as 
needed Disp #*20 Tablet Refills:*0 
2.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth two times 
per day Disp #*60 Tablet Refills:*0 
4.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit oral DAILY  
7.  DULoxetine 30 mg PO DAILY  
8.  Gabapentin 400 mg PO QHS  
9.  Metoprolol Succinate XL 12.5 mg PO DAILY  
10.  Multivitamins 1 TAB PO DAILY  
11.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
12.  Omeprazole 40 mg PO BID  
13.  Sucralfate 1 gm PO TID  
14.  TraZODone 100 mg PO QHS  
15.  Vitamin D ___ UNIT PO DAILY  
16. HELD- Isosorbide Mononitrate (Extended Release) 30 mg PO 
DAILY  This medication was held. Do not restart Isosorbide 
Mononitrate (Extended Release) until instructed by your 
cardiologist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
Unstable angina 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital because you had chest pain and 
had recently had an abnormal stress test. 

What was done while I was in the hospital?
==========================================
- You had blood work which showed you were not having a heart 
attack; however, you had a heart catheterization which showed 
blockage of one of the arteries of your heart. A stent was 
placed to open the blockage. Another narrow area was opened up 
with a balloon.
- You were started on two new medications: "ticagrelor" for 
keeping your arteries open (this replaced your old medication, 
clopidogrel) and "lisinopril" 

What should I do now that I am going home?
========================================== 
*Please take all of your medicines as prescribed. Do not forget 
to take the aspirin daily or the ticagrelor twice per day, 
because missing these medicines can cause your stents to close. 
*Do not take more than 81 mg ASA per day. If you have pain, you 
can take acetaminophen aka Tyelenol. Do not take NSAIDs (Aleve, 
Advil, Motrin, Ibuprofen, etc.). If you have questions, please 
call your doctor. 
*Continue to go to cardiac rehab
*Follow-up with your PCP (___) and Dr. ___ 
appointment is being scheduled for you). 

It was a pleasure participating in your care,
-Your ___ Team

 
Followup Instructions:
___